US05935993
(E)-3-(3,5-Di-t-butyl-4-hydroxyphenyl)-2-[(3-phenyl-n-propyl)aminosulfonyl]acrylonitrile
N-3-Phenyl-n-propyl cyanomethylsulfonamide and 3,5-di-t-butyl-4-hydroxybenzaldehyde was condensed under the similar conditions as described for example 12 (Part B) to yield the titled compound.

reactant | N-3-Phenyl-n-propyl cyanomethylsulfonamide | C1(=CC=CC=C1)CCCNS(=O)(=O)CC#N | C11H14N2O2S
reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
product | (E)-3-(3,5-Di-t-butyl-4-hydroxyphenyl)-2-[(3-phenyl-n-propyl)aminosulfonyl]acrylonitrile | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)/C=C(\C#N)/S(=O)(=O)NCCCC1=CC=CC=C1 | C26H34N2O3S
